US07591505B2
(1) Production of Acrylic Copolymer (Production of EMA-HEMA)
In a nitrogen-substituted flask equipped with a reflux condenser and an agitator, 97 parts of ethyl methacrylate (hereinafter abbreviated as “EMA”), 19.5 parts of 2-hydroxyethyl methacrylate (hereinafter abbreviated as “HEMA”), 0.18 parts of azobisisobutylonitrile (hereinafter abbreviated as “AIBN”) and 200 parts of 1,2-dimethoxyethane were added, mixed together, and dissolved. Then, the mixture was allowed to react in a nitrogen current under agitation at 70° C. for 6 hours. The obtained reaction solution was added to n-hexane for the sake of purification by reprecipitation, thereby obtaining 100 parts of copolymer having a composition ratio of EMA/HEMA of 85/15 (molar ratio). The hydroxyl value of the copolymer was 72.1 mgKOH/g, and its weight average molecular weight measured by GPC (column: Shodex GPCA-804, eluent: THF) was 80,000 in terms of standard polystyrene.

reactant | EMA HEMA | C(C(=C)C)(=O)OCC.C(C(=C)C)(=O)OCCO
solvent | THF | C1CCOC1 | C4H8O
product | HEMA | CC(=C)C(=O)OCCO | C6H10O3
